US06521716B1
To 5-amino-2,2,4-trimethylcyclopentylmethylamine (127.72 g, 0.819 mol) in xylene (525 ml) at 122° C. was added with stirring 2,2,6-trimethyl-1,3-dioxen-4-one (232.51 g, 1.637 mol) in xylene (525 mol) over 10 minutes, during which the temperature decreased to 104° C. After heating to 113° C. over 5 minutes, vigorous effervescence and distillation of acetone (through a Vigreux column) commenced. Pot temperature was increased to 127° C. over 5 minutes and to 140° C. over a further 30 minutes, with collection of acetone distillate. After cooling to 39° C., dichloromethane was added, and removal of solvent and drying (93° C./100 Pa) gave 1-acetoacetamido-2-acetoacetamidomethyl-3,3,5-trimethylcyclopentane (237.03 g, 89%), (AAMTCP), which was crushed to a light yellow powder, mp 94-114° C. (mixture of stereoisomers), and identified by 1H-NMR, 13C-NMR, FT-IR and Raman spectra.

reactant | 5-amino-2,2,4-trimethylcyclopentylmethylamine | 0.819 mol, 127.72 g | NC1C(CC(C1CN)(C)C)C | C9H20N2
reactant | 2,2,6-trimethyl-1,3-dioxen-4-one | 1.637 mol, 232.51 g | CC1=CC(=O)OC(O1)(C)C | C7H10O3
solvent | xylene | 525 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 525 mol | C=1(C(=CC=CC1)C)C | C8H10
product | 1-acetoacetamido-2-acetoacetamidomethyl-3,3,5-trimethylcyclopentane | 237.03 g, 89% | C(CC(=O)C)(=O)NC1C(C(CC1C)(C)C)CNC(CC(=O)C)=O | C17H28N2O4
